US05395934
4-Chloro-2-methyl-5-(1-piperazinyl)-3(2H)-pyridazinone
A solution of 4.48 g (25 mmoles) of 4,5-dichloro-2-methyl-3(2H)-pyridazinone and 17.2 g (200 mmoles) of piperazine in 45 ml of anhydrous ethanol is boiled for 4 hours under stirring and reflux cooling. The solvent is evaporated in vacuo and the residue is dissolved in a mixture of water and dichloromethane. The organic phase is washed with water, dried and evaporated. The residue is triturated with ether. Thus 3.44 g (60%) of the desired compound are obtained. M.p.: 83°-87° C.

reactant | 4,5-dichloro-2-methyl-3(2H)-pyridazinone | 25 mmoles, 4.48 g | ClC=1C(N(N=CC1Cl)C)=O | C5H4Cl2N2O
reactant | piperazine | 200 mmoles, 17.2 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 4-Chloro-2-methyl-5-(1-piperazinyl)-3(2H)-pyridazinone | 3.44 g, 60% | ClC=1C(N(N=CC1N1CCNCC1)C)=O | C9H13ClN4O
